US06710068B2
Synthesis of N-(3,5-Dimethylphenylthio)succinimide
3,5-Dimethylthiophenol (2.76 g, 0.02 mol) was added by a syringe to an ice cooled mixture of N-chlorosuccinimide (3.34 g, 0.025 mol) and anhydrous dichloromethane (30 mL) under argon atmosphere. After 1 hour, N-chlorosuccinimide (0.4 g, 0.003 mol) was added, then reaction was stirred for 2.5 hours. Triethylamine (3.9 mL, 0.028 mol) was added while stirring for 15 minutes, then dichloromethane and 1N HCl were added. After shaking, organic layer was dried, concentrated to a small volume and passed through a Celite® column. After evaporation of the solvent, the residue was triturated with diethyl ether to give 3.0 g (64%) of title compound, mp 131-134° C. (from diethyl ether).

reactant | 3,5-Dimethylthiophenol | 0.02 mol, 2.76 g | CC=1C=C(C=C(C1)C)S | C8H10S
reactant | N-chlorosuccinimide | 0.025 mol, 3.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.003 mol, 0.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Triethylamine | 0.028 mol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(3,5-Dimethylphenylthio)succinimide | 3.0 g, 64% | CC=1C=C(C=C(C1)C)SN1C(CCC1=O)=O | C12H13NO2S
